US08541445B2
Step 1: 1-trityl-1H-pyrazolo[3,4-b]pyridine-4-carboxylic acid
A solution of Isopropylmagnesium chloride-lithium chloride complex (21.99 mL of 14% w/v, 21.20 mmol) in THF (2.5 mL) was cooled to below −20° C. This was treated with 4-iodo-1-trityl-pyrazolo[5,4-b]pyridine (9.84 g, 20.19 mmol) under nitrogen and allowed to stir for 30 minutes. The reaction was then treated with 3 pellets of CO2 and allowed to warm up. After a further hour the mixture was diluted with EtOAc and acidified with saturated aqueous ammonium chloride. The layers were separated, dried (MgSO4), filtered and concentrated in vacuo. The mixture was purified by column chromatography (1:1 Petroleum ether/EtOAc moving to 10% MeOH/EtOAc) to give the product as an off-white oil (7.0 g, 86% Yield). 1H NMR (DMSO, 400 MHz) δ 7.17-7.26 (15H, m), 7.47-7.49 (1H, m), 8.18 (1H, d), 8.56-8.58 (1H, m).

reactant | 4-iodo-1-trityl-pyrazolo[5,4-b]pyridine | 20.19 mmol, 9.84 g | IC1=C2C(=NC=C1)N(N=C2)C(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2 | C25H18IN3
reactant | CO2 | C(=O)=O | CO2
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | THF | 2.5 mL | C1CCOC1 | C4H8O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 1-trityl-1H-pyrazolo[3,4-b]pyridine-4-carboxylic acid | 7.0 g, 86% Yield | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)N1N=CC2=C1N=CC=C2C(=O)O | C26H19N3O2
